US07238808B2
5-Chloro-thiophene-2-sulfonic acid bis-(2-hydroxy-ethyl)-amide
To a stirred solution of diethanolamine (1.45 g, 13.8 mmol) in THF (20 mL) was added at 0° C. (ice water bath) commercially available 5-chloro-thiophene-2-sulfonyl chloride (1.0 g, 4.61 mmol) and triethylamine (0.71 mL, 5.07 mmol). The reaction mixture was stirred at room temperature for 16 h and evaporated. The crude product was further purified by flash chromatography (ethyl acetate/heptane) to yield the title compound (1.15 g, 88%) as a white solid. MS (ISN) 284.3 [(M−H)−], mp 69° C.

reactant | diethanolamine | 13.8 mmol, 1.45 g | N(CCO)CCO | C4H11NO2
reactant | 5-chloro-thiophene-2-sulfonyl chloride | 4.61 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | triethylamine | 5.07 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Chloro-thiophene-2-sulfonic acid bis-(2-hydroxy-ethyl)-amide | 1.15 g, 88% | OCCN(S(=O)(=O)C=1SC(=CC1)Cl)CCO | C8H12ClNO4S2
